US09447030B2
To a solution of azetidin-3-ylmethyl (2-nitro-5-(thiophen-2-yl)phenyl)carbamate (0.35 g, 1.05 mmol, 1 eq.) in dichloromethane (10 mL) was added TEA (0.22 mL, 1.57 mmol, 1.5 eq.) and acetic anhydride (0.11 mL, 1.15 mmol, 1.1 eq.) at 0° C. The reaction was warmed to room temperature and stirred for 1 h. The reaction was diluted with dichloromethane. The organic layer was washed with water and brine. The combined organic layers were dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude material was purified by column chromatography (silica gel, 4% MeOH/CH2Cl2) to obtain (1-acetylazetidin-3-yl)methyl (2-nitro-5-(thiophen-2-yl)phenyl)carbamate (0.31 g, 79% yield).

reactant | azetidin-3-ylmethyl (2-nitro-5-(thiophen-2-yl)phenyl)carbamate | 1.05 mmol, 0.35 g, 1 eq. | [N+](=O)([O-])C1=C(C=C(C=C1)C=1SC=CC1)NC(OCC1CNC1)=O | C15H15N3O4S
reactant | acetic anhydride | 1.15 mmol, 0.11 mL, 1.1 eq. | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (1-acetylazetidin-3-yl)methyl (2-nitro-5-(thiophen-2-yl)phenyl)carbamate | 0.31 g, 79% yield | [N+](=O)([O-])C1=C(C=C(C=C1)C=1SC=CC1)NC(OCC1CN(C1)C(C)=O)=O | C17H17N3O5S
